US08183280B2
A. (2S)—N-(tert-Butyloxycarbonyl)piperidine-2-carboxamide
(2S)—N-(tert-Butyloxycarbonyl)pipecolinic acid (3.0 g, 13.0 mmol) was dissolved in CH2Cl2/DMF (9:1, 150 ml). To this solution at 0° C. was added 1-hydroxybenzotriazole hydrate (2.0 g, 14.8 mmol) and water soluble carbodiimide (2.74 g, 13.7 mmol). After 1 h at 0° C. ammonia (35%, 25 ml) was added. After 18 h at 0° C. to room temperature the solvent was removed in vacuo and the residue was taken up in ethyl acetate (500 ml). This solution was washed with 0.3M KHSO4, sat. NaHCO3, water and brine, dried (Na2SO4) and evaporated in vacuo. The residue was purified by flash chromatography (eluant: 4% methanol, 96% chloroform) to give a white solid identified as the title compound (1.7 g, 7.4 mmol, 57%).

reactant | (2S)—N-(tert-Butyloxycarbonyl)pipecolinic acid | 13.0 mmol, 3.0 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CCCC1 | C11H19NO4
reactant | 1-hydroxybenzotriazole hydrate | 14.8 mmol, 2.0 g | O.ON1N=NC2=C1C=CC=C2
reactant | water soluble carbodiimide | 13.7 mmol, 2.74 g | CCN=C=NCCCN(C)C.Cl
reactant | ammonia | 25 ml | N | H3N
solvent | CH2Cl2 DMF | 150 ml | C(Cl)Cl.CN(C)C=O
product | (2S)—N-(tert-Butyloxycarbonyl)piperidine-2-carboxamide | 7.4 mmol, 1.7 g, 57% | C(C)(C)(C)OC(=O)NC(=O)[C@H]1NCCCC1 | C11H20N2O3
